US07423150B2
To 4-tert-butyl-1-fluoro-2-nitrobenzene in methanol was added a catalytic amount of palladium on carbon (10%). The mixture was allowed to stir for 1 h at room temperature under an atmosphere of hydrogen. Mixture was filtered though celite and concentrated to afford 5-tert-butyl-2-fluorobenzenamine.

reactant | 4-tert-butyl-1-fluoro-2-nitrobenzene | C(C)(C)(C)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C10H12FNO2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-tert-butyl-2-fluorobenzenamine | C(C)(C)(C)C=1C=CC(=C(C1)N)F | C10H14FN
